US05374623
Synthesis of 2-aminoisobutyric methylester HCl salt.
To 2-aminoisobutyric acid in 125 ml of methanol is added 125 ml of methanol saturated with HCl. The initial mixture becomes a solution and the reaction is sealed and allowed to stir at room temperature overnight. The next day the reaction is evaporated, first neat and then from toluene to give a solid.

reactant | 2-aminoisobutyric acid | NC(C(=O)O)(C)C | C4H9NO2
reactant | HCl | Cl | ClH
reactant | methanol | 125 ml | CO | CH4O
reactant | methanol | 125 ml | CO | CH4O
product | 2-aminoisobutyric methylester HCl salt | Cl.COC(C(C)(C)N)=O | InChI=1S/C5H11NO2.ClH/c1-5(2,6)4(7)8-3;/h6H2,1-3H3;1H
